US09227956B2
A round-bottom flask was charged with Preparation 22, 5-(4-iodo-1-methyl-1H-pyrazol-5-yl)-2H-tetrazole (191 g, 692 mmol), 4-dimethylaminopyridine (4.27 g, 34.6 mmol), THF (1.72 L), acetaldehyde (43 mL, 760 mmol), and triethylamine (107 mL, 762 mmol). The reaction solution was stirred and then ethyl chloroformate (86.2 mL, 97% by mass, 692 mmol) was added. The reaction mixture was stirred overnight at room temperature. The reaction mixture was diluted with EtOAc (965 mL) and H2O (965 mL). The layers were separated. The aqueous layer was extracted with EtOAc (965 mL). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to afford ethyl 1-[5-(4-iodo-1-methyl-1H-pyrazol-5-yl)-2H-tetrazol-2-yl]ethyl carbonate as a colorless oil (261 g, 96% yield).

reactant | 5-(4-iodo-1-methyl-1H-pyrazol-5-yl)-2H-tetrazole | 692 mmol, 191 g | IC=1C=NN(C1C=1N=NNN1)C | C5H5IN6
reactant | acetaldehyde | 760 mmol, 43 mL | C(C)=O | C2H4O
reactant | triethylamine | 762 mmol, 107 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 692 mmol, 86.2 mL | ClC(=O)OCC | C3H5ClO2
catalyst | 4-dimethylaminopyridine | 34.6 mmol, 4.27 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | EtOAc | 965 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 965 mL | O | H2O
solvent | THF | 1.72 L | C1CCOC1 | C4H8O
product | ethyl 1-[5-(4-iodo-1-methyl-1H-pyrazol-5-yl)-2H-tetrazol-2-yl]ethyl carbonate | 261 g, 96% yield | C(OCC)(OC(C)N1N=C(N=N1)C1=C(C=NN1C)I)=O | C10H13IN6O3
